resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.013793
R2 0 n2 0.999794
R3 0 n4 1.018699
R4 n1 n3 1.014525
R5 n1 n5 1.01883
R6 n2 n3 0.04224
R7 n2 n6 0.984749
R8 n3 n7 0.983406
R9 n4 n5 1.0055
R10 n4 n6 1.002559
R11 n5 n7 1.008534
R12 n6 n7 0.995741
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
